### PR TITLE
Make default the more corecursive version of `eutt`.

### PR DESCRIPTION
**Pull request by gilhur**
- Simplify several proofs directly using this new `eutt`.

### CODE REVIEW

File: theories/Core.v [hunk 1]
```diff
@@ -152,7 +152,7 @@ CoFixpoint spin {E R} : itree E R := Tau spin.
 
 (** Repeat a computation infinitely. *)
 Definition forever {E R S} (t : itree E R) : itree E S :=
-  cofix forever_t := bind t (fun _ => Tau forever_t).
+  cofix forever_t := Tau (bind t (fun _ => forever_t)).
```
Comment (Lysxia) [inline theories/Core.v]: Is it really better to have the tau here?

File: theories/Eq/SimUpToTaus.v [hunk 2]
```diff
@@ -19,12 +19,14 @@ From Coq Require Import
      Classes.RelationClasses
      Classes.Morphisms
      Setoids.Setoid
+     Program
```
Comment (Lysxia) [inline theories/Eq/SimUpToTaus.v]: What are we using from there? I'm wary of `Program` because its heavy machinery recently caused some universe inconsistencies between itrees and quickchick.

File: theories/FixFacts.v [hunk 3]
```diff
@@ -96,118 +97,65 @@ Proof.
...
+      * rewrite vis_mrec_right, vis_interp. simpl.
+        setoid_rewrite vis_bind_. setoid_rewrite ret_bind_.
+        pfold. econstructor. econstructor. intros.
+        rewrite <- (ret_bind () (fun _ => interp_mrec _ _ _)).
+        rewrite <- (ret_bind () (fun _ => interp _ _ _)).
+        pupto2_final. eauto.
+  - rewrite !tau_bind.
+    pfold. econstructor. pupto2_final. eauto.
+  - rewrite !vis_bind.
+    pfold. econstructor. intros. pupto2_final. eauto.
```
Comment (Lysxia) [inline theories/FixFacts.v]: This proof looks very nice now!

File: theories/MorphismsFacts.v [hunk 4]
```diff
@@ -61,26 +61,22 @@ Definition interp_u {E F} (f : E ~> itree F) R :
...
                                         (fun x => interp f _ (k x)))).
 
-Lemma interp_unfold {E F R} {f : E ~> itree F} (t : itree E R) :
-  observe (interp f _ t) = observe (interp_u f _ (observe t)).
-Proof. eauto. Qed.
-
 Lemma unfold_interp {E F R} {f : E ~> itree F} (t : itree E R) :
-  interp f _ t ≅ interp_u f _ (observe t).
-Proof. rewrite itree_eta_, interp_unfold, <-itree_eta_. reflexivity. Qed.
+  observing eq (interp f _ t) (interp_u f _ (observe t)).
```
Comment (Lysxia) [inline theories/MorphismsFacts.v]: Thanks for these!

File: theories/MorphismsFacts.v [hunk 5]
```diff
@@ -210,134 +222,13 @@ Proof.
...
-
-Instance eq_itree_interp1 {E F G} `{F -< G} {R} (h : E ~> itree F) :
-  Proper (@eq_itree (E +' F) _ _ eq ==> eq_itree eq) (interp1 h R).
-Proof.
-  repeat intro.
-  eapply eq_itree_interp1_; auto.
-  reflexivity.
-Qed.
-
-Instance eutt_interp1 {E F G: Type -> Type} `{F -< G} (h: E ~> itree G) R:
```
Comment (Lysxia) [inline theories/MorphismsFacts.v]: These generalized theorems about `interp1` are used in the imp2asm proofs, but only the old versions are kept at the end of this file.

**Comment by Lysxia** [comment]
I'm going to fix the `interp1` proofs.
